US06200976B1
c. Methyl 2-[2-(4-cyano-phenyl)-acetylamino]-5-nitro-benzoate
4.8 g (3 mmol) of (4-cyano-phenyl)-acetic acid are suspended in 25 ml of methylene chloride and refluxed for 15 minutes after the addition of 5 ml thionyl chloride. The solvent is distilled off, the residue dissolved in 100 ml chlorobenzene and after the addition of 4.9 g (2.5 mmol) of methyl 2-amino-5-nitro-benzoate refluxed for 2 hours. Three-quarters of the volume of chlorobenzene is distilled off and the residue is combined with ether/petroleum ether. The crystalline product is suction filtered and dried.

reactant | (4-cyano-phenyl)-acetic acid | 3 mmol, 4.8 g | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 2-amino-5-nitro-benzoate | 2.5 mmol, 4.9 g | NC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H8N2O4
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-[2-(4-cyano-phenyl)-acetylamino]-5-nitro-benzoate | C(#N)C1=CC=C(C=C1)CC(=O)NC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C17H13N3O5
